US04390540
6-Chloro-4,5-dihydroimidazo[1,2-a]quinazolin-2(1H)-one
A solution of 0.15 mol of 2-amino-5-chloro-3,4-dihydro-3-(p-methoxybenzyl)-quinazoline hydrobromide in 800 ml of dimethylformamide is treated with 0.18 mol of ethyl iodoacetate and 0.2 mol of potassium carbonate and stirred at room temperature for 18 hours. Then, the mixture is stirred at 90° for an additional 5 hours, cooled and poured into 5 l of ice/water. The precipitated product, 6-chloro-4-(p-methoxybenzyl)-5H-imidazo[1,2-a]quinazolin-2(1H)-one, is removed by filtration and washed well with water. In order to prepare the hydrochloride, the product is recrystallized from ethanol/hydrochloric acid; m.p. 230° (decomposition).

reactant | 2-amino-5-chloro-3,4-dihydro-3-(p-methoxybenzyl)-quinazoline hydrobromide | 0.15 mol | Br.NC1=NC2=CC=CC(=C2CN1CC1=CC=C(C=C1)OC)Cl
reactant | ethyl iodoacetate | 0.18 mol | ICC(=O)OCC | C4H7IO2
reactant | potassium carbonate | 0.2 mol | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
product | 6-Chloro-4,5-dihydroimidazo[1,2-a]quinazolin-2(1H)-one | ClC1=C2CNC=3N(C2=CC=C1)CC(N3)=O | C10H8ClN3O
